US06410540B1
Preparation of 4-Benzylpiperidin-1-yl-(4-amino)benzene carboxamide (1-(4-aminobenzoyl)-4-benzyl piperidine)
4-Aminobenzoic acid (1.61 g, 10 mM) was reacted with EDAC (1.92 g, 10 mM) in 40 mL dry DMF for 15 minutes. 4-Benzylpiperidine (1.75 g, 10 mM) was added followed by DMAP (20 mg, catalyst ) and the reaction mixture was stirred for 20 h. The mixture was poured into water and extracted with methylene chloride (3×100 mL). The combined extract was washed with dilute hydrochloric acid, saturated sodium bicarbonate and water and dried over MgSO4. After evaporation of the solvent, the residue was chromatographed with methylene chloride-methanol (0 to 2% methanol, gradient) to yield 1.60 g (50%) of the title compound after recrystallization from ether-Hexane. 1H NMR (CDCl3): δ 7.40-7.10 (m, 7 H), 6.70 (d, 2 H), 3.95-3.90 (broad m, 2 H), 2.85-2.75 (broad m, 2 H), 2.6 (d, 2 H), 1.85-1.80 (m, 1 H), 2.75-2.65 (broad m, 2 H), 1.15-1.05 (broad m, 2 H). MS (ESI) m/e 294 (M+).

reactant | 4-Aminobenzoic acid | 10 mM, 1.61 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | EDAC | 10 mM, 1.92 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-Benzylpiperidine | 10 mM, 1.75 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Benzylpiperidin-1-yl-(4-amino)benzene carboxamide | 1.60 g, 50% | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C=CC(=C1)N)C(=O)N | C19H23N3O
